US08895571B2
Step B: 4-[(ethylthio)methyl]-1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole
To a solution of 4-[(ethylthio)methyl]-1-methyl-1H-pyrazole (0.81 g, 5.2 mmol) in tetrahydrofuran (3.0 mL) at 0° C. was added 1.6 M n-butyllithium in hexane (6.3 mL, 10. mmol). The solution was stirred at room temperature for 1 h and then cooled down to −78° C. To the solution was added 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (2.06 mL, 10.1 mmol). The reaction was continued at −78° C. for 0.5 h, then warmed up to 0° C. (taking about 0.5 h). The reaction mixture was quenched with brine, adjusted to PH=6-7 with 1 N HCl aqueous solution, extracted with EtOAc (2×). The combined organic phases were washed with brine, dried over Na2SO4, and concentrated under reduced pressure to give one oil residue which was purified by combi-flash chromatography eluted with EtOAc/hexane (20-100%). The purification gave 1.2 g (86% yield) of the desired product as yellowish oil. LC-MS found: 283.1 (M+H)+.

reactant | 4-[(ethylthio)methyl]-1-methyl-1H-pyrazole | 5.2 mmol, 0.81 g | C(C)SCC=1C=NN(C1)C | C7H12N2S
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 10.1 mmol, 2.06 mL | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
solvent | hexane | 6.3 mL | CCCCCC | C6H14
product | 4-[(ethylthio)methyl]-1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 1.2 g, 86% yield | C(C)SCC=1C=NN(C1B1OC(C(O1)(C)C)(C)C)C | C13H23BN2O2S
